US04426491
0.26 g of t-butyl hydroquinone.
The mixture consisted of 2 liquid layers. The molar ratio, in the overall mixture, of hydroxyl groups to maleic anhydride to styrene was 1.0/1.0/1.63. A 120 g portion of the mixture was blended with 1.2 g of t-butyl perbenzoate to make a thermosetting resin composition.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | t-butyl perbenzoate | 1.2 g | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
product | t-butyl hydroquinone | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
